US07030063B1
Step d) 2-[(8-difluoromethylquinolin-5-yl)carbonyl]-4,4,6,6-tetramethylcyclohexane-1,3,5-trione
0.26 g (1.4 mmol) of 2,2,4,4-tetramethylcyclohexane-1,3,5-trione was dissolved in 10 ml of acetonitrile, 0.34 g (1.4 mmol) of 8-difluoromethyl-5-quinolinecarboxylic acid and 0.38 g (1.9 mmol) of dicyclohexylcarbodiimide were added and the mixture was stirred at 25° C. for 17 hours. 0.57 g (5.6 mmol) of triethylamine and 5 drops of trimethylsilyl cyanide were then added to the suspension, and stirring was continued at 25° C. for a further 25 hours. 50 ml of 5% strength potassium carbonate solution were subsequently added, the mixture was filtered, the filtrate was washed with methyl tert-butyl ether, the aqueous phase was adjusted to pH 2 using concentrated hydrochloric acid and the precipitate was filtered off, washed with water and dried. Yield: 0.25 g (colorless crystals);

reactant | 2,2,4,4-tetramethylcyclohexane-1,3,5-trione | 1.4 mmol, 0.26 g | CC1(C(CC(C(C1=O)(C)C)=O)=O)C | C10H14O3
reactant | 8-difluoromethyl-5-quinolinecarboxylic acid | 1.4 mmol, 0.34 g | FC(C1=CC=C(C=2C=CC=NC12)C(=O)O)F | C11H7F2NO2
reactant | dicyclohexylcarbodiimide | 1.9 mmol, 0.38 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | triethylamine | 5.6 mmol, 0.57 g | C(C)N(CC)CC | C6H15N
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
catalyst | trimethylsilyl cyanide | 5 drops | C[Si](C)(C)C#N | C4H9NSi
product | 2-[(8-difluoromethylquinolin-5-yl)carbonyl]-4,4,6,6-tetramethylcyclohexane-1,3,5-trione | FC(C=1C=CC(=C2C=CC=NC12)C(=O)C1C(C(C(C(C1=O)(C)C)=O)(C)C)=O)F | C21H19F2NO4
